US05462952
2-[(3-Trifluoromethylphenyl)amino]-benzene carboximidic acid hydrazide
Hydrazine hydrate (1.80 ml) is added dropwise to a room temperature solution of 2-[(3-trifluoromethylphenyl)amino]benzene thioamide (2.88 g, 9.73 mmoles) in 100 ml of methanol. The solution is stirred at room temperature under nitrogen for six hours. An additional 400 μl of hydrazine hydrate is added, and stirring is continued for one hour. The solution is concentrated in vacuo and purified by flash chromatography eluting with ethyl acetate to give 2.28 g (80%) of a gummy tan solid. This material is used immediately in the next reaction.

reactant | Hydrazine hydrate | 1.80 ml | O.NN
reactant | 2-[(3-trifluoromethylphenyl)amino]benzene thioamide | 9.73 mmoles, 2.88 g | FC(C=1C=C(C=CC1)NC1=C(C=CC=C1)C(N)=S)(F)F | C14H11F3N2S
reactant | hydrazine hydrate | 400 μl | O.NN
solvent | methanol | 100 ml | CO | CH4O
product | 2-[(3-Trifluoromethylphenyl)amino]-benzene carboximidic acid hydrazide | 2.28 g, 80% | FC(C=1C=C(C=CC1)NC1=C(C=CC=C1)C(=N)NN)(F)F | C14H13F3N4
